US04965270
(a) N-(3-Benzyloxyprop-1-oxy)phthalimide
Diethyl azodicarboxylate (15.6 ml 99.4 mmol) added to a solution of 3-benzyloxy-1-propanol (15 g, 90.4 mmol), N-hydroxyphthalimide (14.7 g, 90.1 mmol) and triphenylphosphine (23.7 g, 90.4 mmol) in tetrahydrofuran (450 ml). After 16 hours at 20° C. the solvent was removed under reduced pressure and the residue chromatographed on silica gel (eluted with hexane:acetone, 3:1) to yield the title compound as a yellow oil (27.8 g, 99%).

reactant | Diethyl azodicarboxylate | 99.4 mmol, 15.6 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-benzyloxy-1-propanol | 90.4 mmol, 15 g | C(C1=CC=CC=C1)OCCCO | C10H14O2
reactant | N-hydroxyphthalimide | 90.1 mmol, 14.7 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 90.4 mmol, 23.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | N-(3-Benzyloxyprop-1-oxy)phthalimide | 27.8 g, 99% | C(C1=CC=CC=C1)OCCCON1C(C=2C(C1=O)=CC=CC2)=O | C18H17NO4
